US06525042B1
1-[4-(2-Aminothiazol-4-yl)benzoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride
In a similar manner to Example 4 except for the use of 4-(2-aminothiazol-4-yl)benzoic acid and 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride as the raw materials, the reaction was conducted, whereby the title compound was obtained.

reactant | 4-(2-aminothiazol-4-yl)benzoic acid | NC=1SC=C(N1)C1=CC=C(C(=O)O)C=C1 | C10H8N2O2S
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
product | 1-[4-(2-Aminothiazol-4-yl)benzoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride | Cl.NC=1SC=C(N1)C1=CC=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=C(C=C3C=C2)Cl)C=C1 | InChI=1S/C24H21ClN4O3S2.ClH/c25-20-7-5-19-14-21(8-6-18(19)13-20)34(31,32)29-11-9-28(10-12-29)23(30)17-3-1-16(2-4-17)22-15-33-24(26)27-22;/h1-8,13-15H,9-12H2,(H2,26,27);1H
